Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
Br[CH2:1][c:2]1[n:3]([CH3:4])[n:5]([CH:6]2[CH2:7][CH2:8][CH2:9][CH2:10][CH2:11]2)[c:12](=[O:13])[c:14]1[Br:15].[cH:16]1[cH:17][cH:18][c:19]([CH2:20][CH2:21][CH2:22][CH:23]2[CH2:24][CH2:25][NH:26][CH2:27][CH2:28]2)[cH:29][cH:30]1>>[CH2:1]([c:2]1[n:3]([CH3:4])[n:5]([CH:6]2[CH2:7][CH2:8][CH2:9][CH2:10][CH2:11]2)[c:12](=[O:13])[c:14]1[Br:15])[N:26]1[CH2:25][CH2:24][CH:23]([CH2:22][CH2:21][CH2:20][c:19]2[cH:18][cH:17][cH:16][cH:30][cH:29]2)[CH2:28][CH2:27]1,[Br:101][CH2:1][c:2]1[n:3]([CH3:4])[n:5]([CH:6]2[CH2:7][CH2:8][CH2:9][CH2:10][CH2:11]2)[c:12](=[O:13])[c:14]1[Br:15].[cH:16]1[cH:17][cH:18][c:19]([CH2:20][CH2:21][CH2:22][CH:23]2[CH2:24][CH2:25][NH:26][CH2:27][CH2:28]2)[cH:29][cH:30]1>>[CH2:1]([c:2]1[n:3]([CH3:4])[n:5]([CH:6]2[CH2:7][CH2:8][CH2:9][CH2:10][CH2:11]2)[c:12](=[O:13])[c:14]1[Br:15])[N:26]1[CH2:25][CH2:24][CH:23]([CH2:22][CH2:21][CH2:20][c:19]2[cH:18][cH:17][cH:16][cH:30][cH:29]2)[CH2:28][CH2:27]1,SN2,"[(26, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1](=[O:2])[c:3]1[cH:4][c:5](-[c:6]2[cH:7][cH:8][c:9]([OH:10])[cH:11][cH:12]2)[n:13][c:14]2[nH:15][n:16][cH:17][c:18]12.[CH3:19][C:20]([CH3:21])([CH3:22])[O:23][C:24](=[O:25])[NH:26][C@@H:27]1[CH2:28][CH2:29][NH:30][CH2:31]1>>[C:1](=[O:2])([c:3]1[cH:4][c:5](-[c:6]2[cH:7][cH:8][c:9]([OH:10])[cH:11][cH:12]2)[n:13][c:14]2[nH:15][n:16][cH:17][c:18]12)[N:30]1[CH2:29][CH2:28][C@@H:27]([NH:26][C:24]([O:23][C:20]([CH3:19])([CH3:21])[CH3:22])=[O:25])[CH2:31]1,[OH:101][C:1](=[O:2])[c:3]1[cH:4][c:5](-[c:6]2[cH:7][cH:8][c:9]([OH:10])[cH:11][cH:12]2)[n:13][c:14]2[nH:15][n:16][cH:17][c:18]12.[CH3:19][C:20]([CH3:21])([CH3:22])[O:23][C:24](=[O:25])[NH:26][C@@H:27]1[CH2:28][CH2:29][NH:30][CH2:31]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1](=[O:2])([c:3]1[cH:4][c:5](-[c:6]2[cH:7][cH:8][c:9]([OH:10])[cH:11][cH:12]2)[n:13][c:14]2[nH:15][n:16][cH:17][c:18]12)[N:30]1[CH2:29][CH2:28][C@@H:27]([NH:26][C:24]([O:23][C:20]([CH3:19])([CH3:21])[CH3:22])=[O:25])[CH2:31]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (30, 1), ([1, 2], 2), (303, 30.1), ([30.1, 30], 30), (2, [2, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[c:1]1[n:2][cH:3][c:4]([C:5]([O:6][CH3:7])=[O:8])[cH:9][c:10]1[N+:11](=[O:12])[O-:13].[NH2:14][NH2:15]>>[c:1]1([NH:15][NH2:14])[n:2][cH:3][c:4]([C:5]([O:6][CH3:7])=[O:8])[cH:9][c:10]1[N+:11](=[O:12])[O-:13],[Cl:101][c:1]1[n:2][cH:3][c:4]([C:5]([O:6][CH3:7])=[O:8])[cH:9][c:10]1[N+:11](=[O:12])[OH:13].[NH2:14][NH2:15]>>[c:1]1([NH:15][NH2:14])[n:2][cH:3][c:4]([C:5]([O:6][CH3:7])=[O:8])[cH:9][c:10]1[N+:11](=[O:12])[OH:13],SNAr(ortho),"[(15, 1), ([1, 10], [10, 11]), ([11, 12], 12), (12, [12, 11]), ([11, 10], [10, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1]([CH:2]1[CH2:3][CH2:4][N:5]([C:6]([O:7][C:8]([CH3:9])([CH3:10])[CH3:11])=[O:12])[CH2:13][CH2:14]1)=[O:15].[NH2:16][NH:17][c:18]1[cH:19][n:20][c:21]2[cH:22][cH:23][c:24]([Br:25])[cH:26][c:27]2[n:28]1>>[C:1]([CH:2]1[CH2:3][CH2:4][N:5]([C:6]([O:7][C:8]([CH3:9])([CH3:10])[CH3:11])=[O:12])[CH2:13][CH2:14]1)(=[O:15])[NH:16][NH:17][c:18]1[cH:19][n:20][c:21]2[cH:22][cH:23][c:24]([Br:25])[cH:26][c:27]2[n:28]1,[OH:101][C:1]([CH:2]1[CH2:3][CH2:4][N:5]([C:6]([O:7][C:8]([CH3:9])([CH3:10])[CH3:11])=[O:12])[CH2:13][CH2:14]1)=[O:15].[NH2:16][NH:17][c:18]1[cH:19][n:20][c:21]2[cH:22][cH:23][c:24]([Br:25])[cH:26][c:27]2[n:28]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([CH:2]1[CH2:3][CH2:4][N:5]([C:6]([O:7][C:8]([CH3:9])([CH3:10])[CH3:11])=[O:12])[CH2:13][CH2:14]1)(=[O:15])[NH:16][NH:17][c:18]1[cH:19][n:20][c:21]2[cH:22][cH:23][c:24]([Br:25])[cH:26][c:27]2[n:28]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (16, 1), ([1, 15], 15), (303, 16.1), ([16.1, 16], 16), (15, [15, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
